US04515948
A mixture of 3.78 g. of sodium methylate, 5.1 g. of β-anilino-propionitrile and 9.8 g. of 4'-[(1-hydroxy-2-(methylsulfonyl)-ethyl)]-2',6'-dimethoxy-acetanilide in 40 ml. of dimethylsulfoxide was stirred at 50° C. for 4 hours with the exclusion of moisture. The mixture was poured into 400 ml. of water and the resulting emulsion was extracted with three 500 ml. portions of ethyl acetate. The ethyl acetate extracts were washed with two 200 ml. portions of water, combined, dried over magnesium sulfate and evaporated under vacuum. Recrystallization of the residue from ethyl acetate gave 4'-(3-anilino-2-cyano-allyl)-2',6'-dimethoxy-acetanilide having a melting point of 165°-167° C.

reactant | sodium methylate | C[O-].[Na+]
reactant | β-anilino-propionitrile | N(C1=CC=CC=C1)CCC#N | C9H10N2
reactant | 4'-[(1-hydroxy-2-(methylsulfonyl)-ethyl)]-2',6'-dimethoxy-acetanilide | OC(CS(=O)(=O)C)C1=CC(=C(NC(C)=O)C(=C1)OC)OC | C13H19NO6S
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 4'-(3-anilino-2-cyano-allyl)-2',6'-dimethoxy-acetanilide | N(C1=CC=CC=C1)C=C(CC1=CC(=C(NC(C)=O)C(=C1)OC)OC)C#N | C20H21N3O3
